US07678818B2
A mixture of 2 g of 3-(2,2,2-trifluoro-acetylamino)-thiophene-2-carboxylic acid methyl ester (7.9 mmol), 1.31 g of potassium carbonate (9.48 mmol) and 596 μl of methyl iodide (9.48 mmol) in DMF (7.5 ml) was stirred for 2 d. The reaction mixture was then poured into water and extracted with DCM. The combined organic extracts were washed with water and brine, dried (Na2SO4), filtered and concentrated in vacuo to give 2.055 g (97%) of 3-[methyl-(2,2,2-trifluoro-acetyl)-amino]-thiophene-2-carboxylic acid methyl ester as a white solid. MS (ISP) 268.1 (M+H)+.

reactant | 3-(2,2,2-trifluoro-acetylamino)-thiophene-2-carboxylic acid methyl ester | 7.9 mmol, 2 g | COC(=O)C=1SC=CC1NC(C(F)(F)F)=O | C8H6F3NO3S
reactant | potassium carbonate | 9.48 mmol, 1.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 9.48 mmol, 596 μl | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 3-[methyl-(2,2,2-trifluoro-acetyl)-amino]-thiophene-2-carboxylic acid methyl ester | 2.055 g, 97% | COC(=O)C=1SC=CC1N(C(C(F)(F)F)=O)C | C9H8F3NO3S
